US06437177B1
Step 2 Preparation of 2-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(N-benzenecarbonylamino)-propionic acid.
A solution of 2-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(N-benzenecarbonylamino)-propionic acid, ethyl ester (0.27 g) in 4 mL of methanol is stirred with 1 mL of 1N sodium hydroxide for 3 hours. The reaction mixture is acidified with 1N HCl and the solvent is removed under reduced pressure. The residue is triturated twice with warm ethyl acetate. The ethyl acetate is removed, affording the title compound as a white solid.

reactant | 2-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(N-benzenecarbonylamino)-propionic acid, ethyl ester | 0.27 g | OC(C(=O)OCC)(CNC(=O)C1=CC=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)OC | C20H23NO7S
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | 2-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-3-(N-benzenecarbonylamino)-propionic acid | OC(C(=O)O)(CNC(=O)C1=CC=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)OC | C18H19NO7S
